US08957080B2
To a solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (8.0 g, 52.32 mmol, 1.0 eq) in DMF (40 mL), NIS (15.7 g, 57.55 mmol, 1.1 eq) was added at 0° C. The reaction mixture was stirred overnight at room temperature. Water (40 mL) was added to the reaction mixture, extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated under vacuum to give 4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine (14.6 g, 100% in yield).

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 52.32 mmol, 8.0 g, 1.0 eq | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | NIS | 57.55 mmol, 15.7 g, 1.1 eq | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | Water | 40 mL | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 14.6 g, 100% | ClC=1C2=C(N=CN1)NC=C2I | C6H3ClIN3
